US04728663
6-Bromo-N-[3-(1H-imidazol-1-yl)butyl]benz[cd]indol-2-amine
A mixture of 5.2 g of 6-bromo-benz[cd]indole-2-thiol, 2.8 g of 3-(1H-imidazol-1-yl)butanamine, 6.6 g of mercuric acetate and 100 ml of dry p-dioxane was reacted as described in Example 1, giving 3.0 g of the desired product, mp 240°-241° C.

reactant | 6-bromo-benz[cd]indole-2-thiol | 5.2 g | BrC=1C=2C3=C(C(=NC3=CC1)S)C=CC2 | C11H6BrNS
reactant | 3-(1H-imidazol-1-yl)butanamine | 2.8 g | N1(C=NC=C1)C(CCN)C | C7H13N3
solvent | p-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 6-Bromo-N-[3-(1H-imidazol-1-yl)butyl]benz[cd]indol-2-amine | 3.0 g | BrC=1C=2C3=C(C(=NC3=CC1)NCCC(C)N1C=NC=C1)C=CC2 | C18H17BrN4
